US08470820B2
Step 4: (1-Methyl-5-pyridin-2-yl-1H-pyrazole-3-yl)-carbamic acid tert-butyl ester
A solution of 1-methyl-5-pyridin-2-yl-1H-pyrazole-3-carboxylic acid (205 mg, 1.0 mmol) in tert-butanol (3.8 ml) was treated with diphenylphosphoryl azide (225 μl, 1.0 mmol) and triethylamine (280 μl, 2.0 mmol) and stirred at 90° C. for 24 hours. Since the reaction was not completed, another equivalent of diphenylphosphoryl azide (225 μl) and two equivalents of triethylamine (280 μl) were added and stirring was continued at 90° C. for another 24 hours. The crude product was purified by silica gel chromatography using a heptane/ethyl acetate gradient and the final product was obtained as off-white solid (66 mg, 24%).

reactant | 1-methyl-5-pyridin-2-yl-1H-pyrazole-3-carboxylic acid | 1.0 mmol, 205 mg | CN1N=C(C=C1C1=NC=CC=C1)C(=O)O | C10H9N3O2
reactant | diphenylphosphoryl azide | 1.0 mmol, 225 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.0 mmol, 280 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 225 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 280 μl, two equivalents | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 3.8 ml | C(C)(C)(C)O | C4H10O
product | (1-Methyl-5-pyridin-2-yl-1H-pyrazole-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NN(C(=C1)C1=NC=CC=C1)C)=O | C14H18N4O2
